US04282206
Reaction of 4-nitrophenacyl bromide with morpholine affords the novel intermediate 1-(4-nitrophenyl)-2-morpholinylethanone which when reduced yields the novel sunscreen 1-(4-aminophenyl)-2-morpholinylethanone.

reactant | 4-nitrophenacyl bromide | [N+](=O)([O-])C1=CC=C(C(CBr)=O)C=C1 | C8H6BrNO3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 1-(4-nitrophenyl)-2-morpholinylethanone | [N+](=O)([O-])C1=CC=C(C=C1)C(CN1CCOCC1)=O | C12H14N2O4
